US08222424B2
2-Methyl-5-[3-(2-methyl-pyridin-4-yl)-1H-indole-6-carbonyl]-benzenesulfonamide is prepared from 0.25 g of 5-[3-bromo-1-(tert-butyl-dimethyl-silyl)-1H-indole-6-carbonyl]-N-(tert-butyl-dimethyl-silyl)-2-methyl-benzenesulfonamide according to the procedure described in Example 6 (microwave irradiation at 150° C. for 5 min). MS (m/z): 404 (M−1); Rf 0.19 (90:10:1 methylene chloride/methanol/ammonium hydroxide).

reactant | 5-[3-bromo-1-(tert-butyl-dimethyl-silyl)-1H-indole-6-carbonyl]-N-(tert-butyl-dimethyl-silyl)-2-methyl-benzenesulfonamide | 0.25 g | BrC1=CN(C2=CC(=CC=C12)C(=O)C=1C=CC(=C(C1)S(=O)(=O)N[Si](C)(C)C(C)(C)C)C)[Si](C)(C)C(C)(C)C | C28H41BrN2O3SSi2
reactant | methylene chloride methanol ammonium hydroxide | C(Cl)Cl.CO.[OH-].[NH4+]
product | 2-Methyl-5-[3-(2-methyl-pyridin-4-yl)-1H-indole-6-carbonyl]-benzenesulfonamide | CC1=C(C=C(C=C1)C(=O)C1=CC=C2C(=CNC2=C1)C1=CC(=NC=C1)C)S(=O)(=O)N | C22H19N3O3S
